US04289495
Preparation of 3-(2',5'-dihydroxy-4'-methylphenyl)-propionic acid
0.18 mol (40 g) of 3-(2',5'-dimethoxy-4'-methylphenyl)-propionic acid is heated under reflux in 300 ml of 48% strength hydrobromic acid. After cooling, the acid obtained precipitates. It is filtered off, dried and recrystallised from a mixture of ethanol, chloroform and petroleum ether. After drying, it melts at 181° C.

reactant | 3-(2',5'-dimethoxy-4'-methylphenyl)-propionic acid | 0.18 mol, 40 g | COC1=C(C=C(C(=C1)C)OC)CCC(=O)O | C12H16O4
reactant | hydrobromic acid | Br | BrH
product | 3-(2',5'-dihydroxy-4'-methylphenyl)-propionic acid | OC1=C(C=C(C(=C1)C)O)CCC(=O)O | C10H12O4
